US20010003121A1
2-Chloro-3-fluoro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
solution of 2-chloro-3-fluorobenzoic acid (0.098 g) and carbonyldiimidazole (0.091 g), in N,N-dimethylformamide (3.0 ml) was stirred for 2.5 hours at room temperature. 1-Adamantanemethylamine (0.1 ml) was then added and stimrng continued overnight. The reaction mixture was partitioned between ethyl acetate and 2N hydrochloric acid and the organic laver was separated, washed with 10% aqueous sodium hydroxide, water and brine and then dried over sodium sulphate (Na2SO4). The organic layer was subsequently concentrated under reduced pressure to yield the title compound as a white solid (0.138 ).

reactant | 2-chloro-3-fluorobenzoic acid | 0.098 g | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | carbonyldiimidazole | 0.091 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-Adamantanemethylamine | 0.1 ml | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-3-fluoro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=CC=C1F | C18H21ClFNO
